US05110496
2-(4-n-Undecylphenyl)pyrimidine-5-yl-carboxylic acid (1.7 g) was heated together with excess thionyl chloride for 4 hours under reflux and thereafter, unaltered thionyl chloride was distilled off to obtain 2-(4-n-undecylphenyl)pyrimidine-5-yl-carboxylic acid chloride.

reactant | 2-(4-n-Undecylphenyl)pyrimidine-5-yl-carboxylic acid | 1.7 g | C(CCCCCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)O | C22H30N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-(4-n-undecylphenyl)pyrimidine-5-yl-carboxylic acid chloride | C(CCCCCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)C(=O)Cl | C22H29ClN2O
